US04282245
A mixture of 0.2 g of 2-(7-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide, 10 g of potassium hydroxide, 60 ml of water, 20 ml of tetrahydrofuran and 200 ml of methanol was refluxed for 5 hours. The solvent was removed by distillation to obtain a residue, to which was added ice water, and the mixture was acidified with hydrochloric acid and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a residue, which was chromatographed over silica gel and eluted with chloroform/benzene (3/1), thereby obtaining a solid substance. This was recrystallized from benzene--n-hexane to give 91 mg (yield: 45%) of 2-(7-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as light yellow granular crystals having a melting point of 142°-143° C.

reactant | 2-(7-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 0.2 g | ClC1=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C=C1 | C17H14ClNO2S
reactant | potassium hydroxide | 10 g | [OH-].[K+]
reactant | water | 60 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(7-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 91 mg, yield: 45% | ClC1=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C=C1 | C17H13ClO3S
